US07572820B2
A. 3-(Chloromethyl)-5-(4-fluorophenyl)isoxazole
To a solution of [5-(4-fluorophenyl)-3-isoxazolyl]methanol (0.2 g, 1.04 mmol) in 5 mL of CCl4 and 0.5 mL of CH2Cl2 was added Ps-triphenylphosphine (3 mmol/g, 0.69 g, 2.08 mmol), and the mixture was heated at 65° C. for 3 h. Upon cooling, the resin was filtered off and washed with CH2Cl2 and EtOAc. The filtrate was concentrated to dryness to afford the title compound as a light brown solid, which was used in the next reaction without further purification: 1H NMR (400 MHz, CDCl3) δ 7.75 (t, J=6.6 Hz, 2H), 7.14 (t, J=8.3 Hz, 2H), 6.55 (s, 1H), 4.6 (s, 2H).

reactant | [5-(4-fluorophenyl)-3-isoxazolyl]methanol | 1.04 mmol, 0.2 g | FC1=CC=C(C=C1)C1=CC(=NO1)CO | C10H8FNO2
reactant | triphenylphosphine | 2.08 mmol, 0.69 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | CCl4 | 5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 3-(Chloromethyl)-5-(4-fluorophenyl)isoxazole | ClCC1=NOC(=C1)C1=CC=C(C=C1)F | C10H7ClFNO
